US08809372B2
Using 4-iodo pyridine (0.22 g, 1.076 mmol), and 6′-acetyl-[3,3′-bipyridine]-6-carbonitrile (0.12 g, 0.54 mmol) and procedure described for example 7 and step 4, crude product was obtained. The crude product was purified by preparative TLC (5% methanol in ethyl acetate) to obtain 6′-(1-hydroxy-1-(pyridin-4-yl)ethyl)-[3,3′-bipyridine]-6-carbonitrile as off-white solid (30 mg, 18% yield) in 98% HPLC purity. 1H NMR (400 MHz, DMSO-d6): δ 9.12 (s, 1H), 8.94 (s, 1H), 8.46 (d, 2H), 8.38 (dd, 1H), 8.23 (dd, 1H), 8.14 (d, 1H), 7.82 (d, 1H), 7.49 (d, 2H), 6.27 (s, 1H), 1.9 (s, 3H); LC-MS m/z calculated for [M+H]+ 303.12, found 303.1.

reactant | 4-iodo pyridine | 1.076 mmol, 0.22 g | IC1=CC=NC=C1 | C5H4IN
reactant | 6′-acetyl-[3,3′-bipyridine]-6-carbonitrile | 0.54 mmol, 0.12 g | C(C)(=O)C1=CC=C(C=N1)C=1C=NC(=CC1)C#N | C13H9N3O
product | 6′-(1-hydroxy-1-(pyridin-4-yl)ethyl)-[3,3′-bipyridine]-6-carbonitrile | 30 mg, 18% yield | OC(C)(C1=CC=NC=C1)C1=CC=C(C=N1)C=1C=NC(=CC1)C#N | C18H14N4O
